US05639837
Preparation of C6F13SO2Na
1-Iodoperfluorohexane (89.2 g, 0.2 mol) was added rapidly to a stirred mixture of 16.8 g (0.2 mol) of sodium bicarbonate, 418 g (0.24 mol) sodium dithionate, 60 mL of water and 60 mL of acetonitrile at room temperature. After 1.5 hr, the mixture was heated to 55° C. and maintained for 4 hr. The mixture was then concentrated on a rotary evaporator to remove the acetonitrile. Ethyl acetate (250 mL) was added and the mixture was faltered. The solid was dissolved in an additional 200 mL of ethyl acetate. The combined ethyl acetate solutions were washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated on a rotary evaporator. The solid residue was recrystallized three times from 350 mL of isopropanol to give in two crops 55 g of white solid. 19F NMR (CDCl3) -80.6 (3F), -121.6 (2F), -122.2 (2F), -122.4 (2F), -125.7 (2F), -130.7 (2F).

reactant | 1-Iodoperfluorohexane | 0.2 mol, 89.2 g | IC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C6F13I
reactant | sodium bicarbonate | 0.2 mol, 16.8 g | C([O-])(O)=O.[Na+]
reactant | sodium dithionate | 0.24 mol, 418 g | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | water | 60 mL | O | H2O
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | C6F13SO2Na | 55 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)S(=O)O[Na] | InChI=1S/C6HF13O2S.Na/c7-1(8,3(11,12)5(15,16)17)2(9,10)4(13,14)6(18,19)22(20)21;/h(H,20,21);/q;+1/p-1
